US04192803
7,8-Dibromo-11-(4-methyl-1-piperazinyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin
The general procedure of Example 7 is repeated but replacing the 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarbonitrile employed in that example with an equivalent amount of 1-(2-amino-4,5-dibromobenzyl)-2-pyrrolecarbonitrile whereby there is obtained the title compound.

reactant | 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarbonitrile | NC1=C(CN2C(=CC=C2)C#N)C=CC(=C1)Cl | C12H10ClN3
reactant | 1-(2-amino-4,5-dibromobenzyl)-2-pyrrolecarbonitrile | NC1=C(CN2C(=CC=C2)C#N)C=C(C(=C1)Br)Br | C12H9Br2N3
product | 7,8-Dibromo-11-(4-methyl-1-piperazinyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin | BrC=1C(=CC2=C(CN3C(C(=N2)N2CCN(CC2)C)=CC=C3)C1)Br | C17H18Br2N4
